US08492378B2
N′-acetyl-3-bromofuro[2,3-c]pyridine-5-carbohydrazide
In the same manner as in Reference Example 1 and using 3-bromofuro[2,3-c]pyridine-5-carboxylic acid instead of benzothiazole-6-carboxylic acid and acetohydrazide instead of tert-butyl carbazate, the title compound (yield 95%) was obtained as colorless amorphous.

reactant | 3-bromofuro[2,3-c]pyridine-5-carboxylic acid | BrC1=COC2=CN=C(C=C21)C(=O)O | C8H4BrNO3
reactant | acetohydrazide | C(C)(=O)NN | C2H6N2O
product | N′-acetyl-3-bromofuro[2,3-c]pyridine-5-carbohydrazide | yield 95% | C(C)(=O)NNC(=O)C=1C=C2C(=CN1)OC=C2Br | C10H8BrN3O3
